US07816391B2
Intermediate #22: 1-(4-chlorophenyl)-N-cyclohexyl-5-propyl-pyrazole-4-carboxamide
To a suspension of 1-(4-chlorophenyl)-5-propyl-pyrazole-4-carbonyl chloride (commercially available, 302 mg, 1.07 mmol) in DCM (5 ml) was added 1 drop of DMF followed by cyclohexylamine (306 μL, 2.68 mmol). The reaction mixture was stirred at room temperature for two hours then stopped.

reactant | 1-(4-chlorophenyl)-5-propyl-pyrazole-4-carbonyl chloride | ClC1=CC=C(C=C1)N1N=CC(=C1CCC)C(=O)Cl | C13H12Cl2N2O
reactant | cyclohexylamine | 2.68 mmol, 306 μL | C1(CCCCC1)N | C6H13N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 1-(4-chlorophenyl)-N-cyclohexyl-5-propyl-pyrazole-4-carboxamide | ClC1=CC=C(C=C1)N1N=CC(=C1CCC)C(=O)NC1CCCCC1 | C19H24ClN3O
